US03953604
A suspension of 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3 -(2,4-dichlorophenoxy) propane (29.6 g) in diethyl oxalate (30 ml) was added to a suspension of sodium ethoxide, prepared from sodium (6.0 g) and ethanol (60 ml) in dry ether (400 ml). The resulting mixture was heated under reflux for 2 hours, cooled, and then poured onto ice (200 g). After acidifying with a solution of acetic acid (24 ml) in water (160 ml) the ethereal layer was separated. The aqueous layer was extracted with ether (3 × 50 ml) and the combined extracts evaporated to give a red oil. This was dissolved in ethanol (96%, 100 ml) containing hydrochloric acid (10 drops) and the solution heated under reflux for 1 hour. The solvent was then removed under reduced pressure to give a red oil which was solidified by triturating with ether. This solid was crystallized from ethanol to yield 1-(2-carbethoxychromon-5-yloxy)-2-hydroxy-3-(2,4-dichlorophenoxy) propane (30.5 g) as cream crystals m.p. 98°-100° C.

reactant | 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3 -(2,4-dichlorophenoxy) propane | 29.6 g | C(C)(=O)C1=C(OCC(COC2=C(C=C(C=C2)Cl)Cl)O)C=CC=C1O | C17H16Cl2O5
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 6.0 g | [Na] | Na
reactant | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
solvent | diethyl oxalate | 30 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | water | 160 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 10 drops | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-(2-carbethoxychromon-5-yloxy)-2-hydroxy-3-(2,4-dichlorophenoxy) propane | 30.5 g | C(=O)(OCC)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=C(C=C(C=C1)Cl)Cl)O | C21H18Cl2O7
